US07838674B2
4-{3-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-morpholine
4-[3-(4-Bromo-phenyl)-propyl]-morpholine (WO 2003080586) (500 mg; 1.77 mmol), bis-(pinacolato)diboron (449 mg; 1.77 mmol), Pd(dppf)Cl2 (4.3 mg; 0.005 mmol) and KOAc (519 mg; 5.3 mmol) are refluxed in DMF (10 ml) for 20 minutes. A second portion of Pd(dppf)Cl2 (4.3 mg; 0.005 mmol) is added and reflux continued for 20 minutes. The reaction mixture is evaporated to dryness, taken up in TBME, filtered and evaporated. The residue is taken up in heptane, filtered and evaporated to dryness to deliver the title compound as yellowish oil (600 mg; 99%).

reactant | 4-[3-(4-Bromo-phenyl)-propyl]-morpholine | 1.77 mmol, 500 mg | BrC1=CC=C(C=C1)CCCN1CCOCC1 | C13H18BrNO
reactant | bis-(pinacolato)diboron | 1.77 mmol, 449 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 5.3 mmol, 519 mg | CC(=O)[O-].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.005 mmol, 4.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Pd(dppf)Cl2 | 0.005 mmol, 4.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-{3-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-morpholine | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCCN1CCOCC1)C | C19H30BNO3
